US06794395B1
(26) 3-(Z)-[1-anilino-1-(3-cyanophenyl)-methylidene]-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-chloro-1-(3-cyanophenyl)-methylidene]-5,6-dimethoxy-2-indolinone and aniline

reactant | 1-acetyl-3-(1-chloro-1-(3-cyanophenyl)-methylidene]-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC(=CC=C1)C#N)Cl)=O | C20H15ClN2O4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-(Z)-[1-anilino-1-(3-cyanophenyl)-methylidene]-5,6-dimethoxy-2-indolinone | N(C1=CC=CC=C1)\C(\C1=CC(=CC=C1)C#N)=C\1/C(NC2=CC(=C(C=C12)OC)OC)=O | C24H19N3O3
